US05814631
Synthesis of 7-chloro-3-(4-cyanobenzenesulfonyl)-2,4(1H,3H)-quinazolinedione (Compound 126)
1.14 g (5.49 mmol) of 4-cyanobenzenesulfonylisocyanate and 943 mg (5.50 mmol) of 2-amino-4-chlorobenzoic acid were treated in the same way as in Example 1 to obtain 349 mg of the above-identified compound (yield 17.6%). Properties: colorless crystal, Melting point: >250° C. (decomposition), PMR (δppm, DMSO-d6):7.13 (1H,s), 7.24 (1H,d), 7.86 (1H,d), 8.16 (2H,d), 8.32 (2H,d), 11.9 (1H,br).

reactant | 4-cyanobenzenesulfonylisocyanate | 5.49 mmol, 1.14 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)N=C=O | C8H4N2O3S
reactant | 2-amino-4-chlorobenzoic acid | 5.50 mmol, 943 mg | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
product | 7-chloro-3-(4-cyanobenzenesulfonyl)-2,4(1H,3H)-quinazolinedione | 349 mg, yield 17.6% | ClC1=CC=C2C(N(C(NC2=C1)=O)S(=O)(=O)C1=CC=C(C=C1)C#N)=O | C15H8ClN3O4S
